US07223879B2
An oven-dried resealable schlenk tube containing a stir bar was charged with Pd2(dba)3 (4.6 mg, 0.005 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (19.0 mg, 0.04 mmol), 2-aminobenzamide (102 mg, 0.75 mmol) and K2CO3 (173 mg, 1.25 mmol). The tube was capped with a rubber septum, evacuated and backfilled with argon. Bromobenzene (55 μL, 0.5 mmol) and tamyl alcohol (1 mL) were added through the septum via syringe. The septum was replaced with a Teflon screw cap. The schlenk tube was sealed and put into a pre-heated oil bath at 110° C. The reaction mixture was stirred for 15 h, allowed to cool down to room temperature. GC analysis showed full conversion of bromobenzene. 2-Phenylaminobenzamide was obtained in 65% GC yield and 2-amino-N-phenylbenzamide in 10% GC yield.

reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.04 mmol, 19.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | 2-aminobenzamide | 0.75 mmol, 102 mg | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | K2CO3 | 1.25 mmol, 173 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Bromobenzene | 0.5 mmol, 55 μL | BrC1=CC=CC=C1 | C6H5Br
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Phenylaminobenzamide | C1(=CC=CC=C1)NC1=C(C(=O)N)C=CC=C1 | C13H12N2O
